US04452851
To a solution of 2-naphthylglyoxylic acid (6 g) in water (60 ml) and pyridine (6 ml) was added tert-butoxycarbonylmethoxyamine (9 g) in tetrahydrofuran (40 l) at room temperature and the mixture was stirred at the same temperature for 3 hours. The resultant mixture was adjusted to pH 7.5 with 10% aqueous sodium hydroxide and washed with ethyl acetate. The aqueous layer was acidified to pH 2.0 with 10% hydrochloric acid and the acidified solution was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solution was evaporated in vacuo to give 2-(tert-butoxycarbonylmethoxyimino)-2-(2-naphthyl)acetic acid (syn isomer) (8 g).

reactant | 2-naphthylglyoxylic acid | 6 g | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)=O | C12H8O3
reactant | tert-butoxycarbonylmethoxyamine | 9 g | C(C)(C)(C)OC(=O)CON | C6H13NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 40 l | O1CCCC1 | C4H8O
product | 2-(tert-butoxycarbonylmethoxyimino)-2-(2-naphthyl)acetic acid | 8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C1=CC2=CC=CC=C2C=C1 | C18H19NO5
